US07173043B2
In analogy to example 15.1, 5-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol and methane sulfonyl chloride were converted to yield Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester light brown oil, MS: 369 (M).

reactant | 5-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCO)(F)F | C19H14F3NOS
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C)(F)F | C20H16F3NO3S2
